US06545008B1
Example 1: Preparation of 5,6-dimethyl-2-(3,4-difluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
To the solution of 5,6-dimethyl-2-chloro4-(1-methyl- 1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine (0.5 g, 1.74 mmol) prepared in accordance with WO 96/05177 in propylene glycol (2 ml), were added triethylamine (0.3 ml, 2.09 mmol) and 3,4-difluoroaniline (0.2 ml, 2.09 mmol). The reaction mixture was heated to 140° C., stirred for 18 hours, and cooled to room temperature. The resulting solution was diluted with dichloromethane, washed with water, and dried over anhydrous sodium sulfate. The organic layer was concentrated in vacuo. The resulting residue was subjected to silica gel column chromatography (eluent: ethyl acetate/hexane =⅓), and then treated with ethyl ether solution saturated with hydrochloric acid to afford 0.1 g (13.8%) of the titled compound.

reactant | 5,6-dimethyl-2-chloro4-(1-methyl- 1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 1.74 mmol, 0.5 g | CC=1C(=NC(=NC1C)Cl)N1C(C2=CC=CC=C2CC1)C | C16H18ClN3
reactant | triethylamine | 2.09 mmol, 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4-difluoroaniline | 2.09 mmol, 0.2 ml | FC=1C=C(N)C=CC1F | C6H5F2N
solvent | propylene glycol | 2 ml | C(C(C)O)O | C3H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5,6-dimethyl-2-(3,4-difluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.1 g, 13.8% | Cl.CC=1C(=NC(=NC1C)NC1=CC(=C(C=C1)F)F)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C22H22F2N4.ClH/c1-13-14(2)25-22(26-17-8-9-19(23)20(24)12-17)27-21(13)28-11-10-16-6-4-5-7-18(16)15(28)3;/h4-9,12,15H,10-11H2,1-3H3,(H,25,26,27);1H
